US05389641
24g) 2-Butyl-1-[4-[5-(1H-tetrazol-5-yl)pyrimidin-4-yl]benzyl]-1H-benzimidazole-7-carboxylic acid
To a solution of methyl 2-butyl-1-[4-[5-(1H-tetrazol-5-yl)pyrimidin-4-yl]benzyl]-1H-benzimidazole-7-carboxylate (0.18 g, 0.4 mmol) in methanol (5 ml) was added 1N aqueous NaOH (0.9 ml) and the mixture was heated under reflux for 6 hours. After concentration to dryness, the residue was dissolved in water. After removal of insoluble materials by filtration, the filtrate was neutralized with aqueous hydrochloric acid. The resulting precipitates were collected by filtration to afford colorless powders (0.14 g, 77%), m.p. 181°-183° C.

reactant | methyl 2-butyl-1-[4-[5-(1H-tetrazol-5-yl)pyrimidin-4-yl]benzyl]-1H-benzimidazole-7-carboxylate | 0.4 mmol, 0.18 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=NC=NC=C1C1=NN=NN1)C(=CC=C2)C(=O)OC | C25H24N8O2
reactant | NaOH | 1N, 0.9 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 2-Butyl-1-[4-[5-(1H-tetrazol-5-yl)pyrimidin-4-yl]benzyl]-1H-benzimidazole-7-carboxylic acid | 0.14 g, 77% | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=NC=NC=C1C1=NN=NN1)C(=CC=C2)C(=O)O | C24H22N8O2
